US06900215B2
2-(5-Bromo-2-fluorophenyl)-4-methoxypyridine (50 mg, 0.2 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (0.3 mmol) by the method of Example 32. Purification by chromatography on silica gel eluting with dichloromethane containing 1% methanol gave 3-[4-fluoro-3-(4-methoxypyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a yellow solid: δH (400 MHz, CDCl3) 3.93 (3H, s), 6.86 (1H, dd, J 5 and 2), 7.26 (1H, d, J 7), 7.38 (1H, dd, J 11 and 9), 7.42 (1H, s), 7.54-7.58 (1H, m), 8.12 (1H, s), 8.26 (1H, dd, J 7 and 2), 8.54 (1H, d, J 5), 8.86 (1H, d, J 7); m/z (ES+) 388 (M++H).

reactant | 2-(5-Bromo-2-fluorophenyl)-4-methoxypyridine | 0.2 mmol, 50 mg | BrC=1C=CC(=C(C1)C1=NC=CC(=C1)OC)F | C12H9BrFNO
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 0.3 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[4-fluoro-3-(4-methoxypyridin-2-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C2=NC=CC(=C2)OC | C19H12F4N4O
